US06982348B2
N-[(1RS,2SR)-1-(4-tert-butylbenzyl)-2-(3-chlorophenyl)-2-hydroxyethyl]-5-fluoro-1-naphthamide
To a solution of (1RS,2SR)-2-amino-3-(4-tert-butylphenyl)-1-(3-chlorophenyl)propan-1-ol (300 mg, 0.94 mmol) in acetonitrile (20 ml) were added 5-fluoronaphthalenecarboxylic acid (180 mg, 0.94 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (217 mg, 1.13 mmol) and 1-hydroxybenzotriazole hydrate (145 mg, 0.94 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1). Recrystallization from ethyl acetate-hexane gave the objective substance (0.24 g, 53%).

reactant | (1RS,2SR)-2-amino-3-(4-tert-butylphenyl)-1-(3-chlorophenyl)propan-1-ol | 0.94 mmol, 300 mg | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC=C(C=C1)C(C)(C)C | C19H24ClNO
reactant | 5-fluoronaphthalenecarboxylic acid | 0.94 mmol, 180 mg | FC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.13 mmol, 217 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.94 mmol, 145 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-[(1RS,2SR)-1-(4-tert-butylbenzyl)-2-(3-chlorophenyl)-2-hydroxyethyl]-5-fluoro-1-naphthamide | C(C)(C)(C)C1=CC=C(CC(C(O)C2=CC(=CC=C2)Cl)NC(=O)C2=CC=CC3=C(C=CC=C23)F)C=C1 | C30H29ClFNO2
